US04387039
10 ml of thionyl chloride was added to 0.02 mol (5.0 g) of trans-4-(trans-4'-propyl cyclohexyl)-cyclohexane carboxylic acid and heated. They became homogeneous within about 1 hour, and then they were treated further for about an hour. Thereafter, excess thionyl chloride was removed under reduced pressure to leave trans-4-(trans-4'-propyl cyclohexyl)-cyclohexane carboxylic acid chloride. On the other hand, 3.9 g of 4-4'-cyanophenyl phenol is dissolved in 10 ml of pyridine and the acid chloride was added therein. It was stirred well and left to stand for one night. 200 ml of toluene was added thereto, and the toluene layer was washed with 6N HCl at first, then with 2N aqueous NaOH solution, and finally with water until the wash washing water became neutral. After it was dried with anhydrous sodium sulfate, toluene was removed completely under reduced pressure. The yielded crystals were then recrystallized from acetone to obtain 5.8 g of crystals of trans-4-(trans-4'-propyl cyclohexyl)-cyclohexane carboxylic acid 4"'-cyanobiphenyl ester. Yield: 68%. Its physical properties and elemental analysis are shown n Table 1.

reactant | trans-4-(trans-4'-propyl cyclohexyl)-cyclohexane carboxylic acid | 0.02 mol, 5.0 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C16H28O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | trans-4-(trans-4'-propyl cyclohexyl)-cyclohexane carboxylic acid chloride | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)Cl | C16H27ClO
